US08389524B2
(e) (1R)-1-[(4-Isocyanato-4-methyl-1-piperidinyl)methyl]-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione
A solution of (1R)-1-[(4-amino-4-methyl-1-piperidinyl)methyl]-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (1.294 g, 4.09 mmol) in DCM (30 ml) under argon at rt was treated with triethylamine (0.684 ml, 4.91 mmol), then di-tent-butyl dicarbonate (1.045 ml, 4.50 mmol) and finally 4-dimethylaminopyridine (0.050 g, 0.409 mmol) and stirred at rt for 1 h. The reaction mixture was treated with aq sodium bicarbonate (100 ml) and extracted with DCM (3×200 ml). The combined organic fractions were dried (MgSO4), filtered and evaporated to give the crude product as a yellow solid which was then chromatographed (0-10% methanol/DCM, Rf=0.5 in 10% methanol/DCM) to give the product as a white solid (561 mg, 40%).

reactant | (1R)-1-[(4-amino-4-methyl-1-piperidinyl)methyl]-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 4.09 mmol, 1.294 g | NC1(CCN(CC1)C[C@@H]1CN2C(CCC=3C=CC(N1C23)=O)=O)C | C17H24N4O2
reactant | triethylamine | 4.91 mmol, 0.684 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.409 mmol, 0.050 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (1R)-1-[(4-Isocyanato-4-methyl-1-piperidinyl)methyl]-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 561 mg, 40% | N(=C=O)C1(CCN(CC1)C[C@@H]1CN2C(CCC=3C=CC(N1C23)=O)=O)C | C18H22N4O3
